* File: nor2.pex.sp.pex
* Created: Tue Apr 15 16:33:19 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2%GND! 2 10 11 14 17 19 24
c28 24 0 0.0141826f
c29 17 0 0.0147103f
c30 11 0 0.00220954f
c31 10 0 0.00480106f
c32 2 0 0.00242995f
r33 22 27 0.0292546
r34 22 24 1.12113
r35 19 27 0.0210073
r36 15 20 0.049591
r37 15 17 1.12987
r38 14 19 0.507958
r39 14 20 0.663167
r40 11 24 10
r41 10 17 10
r42 2 27 30
.ends

.subckt PM_NOR2%OUT 1 4 9 11 12 18 24
c37 18 0 2.1898e-19
c38 4 0 0.00227389f
r39 24 28 0.186663
r40 20 22 0.388606
r41 18 28 1.7
r42 18 20 0.75681
r43 16 18 0.329344
r44 14 15 0.393464
r45 13 14 0.164334
r46 12 13 0.131155
r47 11 16 0.0489649
r48 11 15 0.0127301
r49 7 12 0.0489649
r50 7 9 0.373062
r51 4 9 10
r52 1 22 15
r53 1 20 10
.ends

.subckt PM_NOR2%VDD! 2 9 12 15
c11 15 0 0.0249898f
r12 19 21 0.331287
r13 15 18 0.388606
r14 13 19 0.0491233
r15 13 18 1.42813
r16 12 21 0.540162
r17 9 18 15
r18 9 15 10
r19 2 21 30
.ends

.subckt PM_NOR2%INA 1 2 6 14 15 18 23
c26 23 0 1.30517e-19
c27 18 0 1.64939e-19
c28 15 0 1.67036e-19
c29 14 0 4.96122e-19
c30 6 0 1.88302e-19
r31 23 27 0.186663
r32 18 27 1.7
r33 18 21 0.00485757
r34 14 21 25
r35 14 16 7.68531
r36 14 15 7.75092
r37 6 16 33.978
r38 4 15 39.7386
r39 2 6 46.5732
r40 1 4 27.3386
.ends

.subckt PM_NOR2%INB 1 2 6 14 15 18 23
c34 23 0 1.26587e-19
c35 18 0 5.60009e-20
c36 14 0 3.73148e-19
c37 2 0 1.37697e-19
r38 23 27 0.186663
r39 18 27 1.7
r40 18 21 0.00485757
r41 14 21 25
r42 14 16 7.68531
r43 14 15 7.75092
r44 6 16 33.978
r45 4 15 39.7386
r46 2 6 46.5732
r47 1 4 27.3386
.ends

